US05290908
Preparation of N,N'-Dipropargyl-1,4,5,8-Naphthalenetetracarboxylic Acid Diimide
In a 250-ml round-bottom flask, equipped with a mechanical stirrer was placed 10.3541 g. (0.036 mole) of 1,4,5,8-naphthalene tetracarboxylic acid dianhydride in 100 ml DMF and the system purged with nitrogen. To this solution was added 4.9310 g. (0.089 mole) of propargyl amine, causing the temperature to rise to 46° C. Then heating was begun and continued at 135° C. for 5 hours. Then the apparatus was fitted with a distillation head and approximately 2 ml of distillate were removed over a one-hour period by heating at 135° C. After cooling, the solid material was isolated by filtration, washed with DMF and vacuum-dried to give a tan solid, 9.0084 g. (68.3%), recrystallization from DMAC gave 4.5840 g. of the diimide whose infrared spectrum was identical to that of Example 2(a).

reactant | 1,4,5,8-naphthalene tetracarboxylic acid dianhydride | 0.036 mole | C1=CC2=C3C(=CC=C4C3=C1C(=O)OC4=O)C(=O)OC2=O | C14H4O6
reactant | propargyl amine | 0.089 mole | C(C#C)N | C3H5N
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | N,N'-Dipropargyl-1,4,5,8-Naphthalenetetracarboxylic Acid Diimide | C(C#C)N=C(O)C1=CC=C(C=2C(=CC=C(C12)C(=O)O)C(=O)O)C(O)=NCC#C | C20H14N2O6
